US08022206B2
1-(3-Bromo-5-fluorophenyl)ethanol
Into the THF (8 ml) solution of 3-bromo-5-fluorobenzaldehyde (374 mg, 1.84 mmol) which was cooled in ice/water bath was added methylmagnesium bromide in Et2O (3.0 M, 0.92 ml) dropwise under an atmosphere of nitrogen. The combined mixture was stirred at 0° C. for 1 h and then at rt for 1 h. After that time, the mixture was quenched with saturated NH4Cl (10 ml) followed by water (10 ml), extracted with EtOAc (2×25 ml). The extracts were washed with water (2×15 ml), brine (15 ml), dried over MgSO4, filtered and concentrated in vacuo to give a beige oil. It was purified by chromatography on silica gel (15 g) eluting with 10% (100 ml), 15% (100 ml), 20% (100 ml) and 25% (100 ml) EtOAc/hexane to give the title compound. 1H NMR (400 MHz, CDCl3): δ=1.47 (d, J=6.4 Hz, 3H), 1.87 (d, J=3.6 Hz, 1H), 4.83-4.90 (m, 1H), 7.02-7.06 (m, 1H), 7.14 (td, J=2.0 & 8.0 Hz, 1H), 7.31 (t, J=1.6 Hz, 1H). MS (ES+): m/z 201.22/203.18 [MH+−H2O]. HPLC: tR=3.07 min (polar—5 min, ZQ3).

reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | 3-bromo-5-fluorobenzaldehyde | 1.84 mmol, 374 mg | BrC=1C=C(C=O)C=C(C1)F | C7H4BrFO
reactant | methylmagnesium bromide | C[Mg]Br
solvent | Et2O | 3.0 M, 0.92 ml | CCOCC | C4H10O
product | 1-(3-Bromo-5-fluorophenyl)ethanol | BrC=1C=C(C=C(C1)F)C(C)O | C8H8BrFO
